US08859591B2
A mixture of 4-methoxy-2-methylaniline (1.37 g, 10.0 mmol) and 2-nitrobenzaldehyde (1.51 g, 10.0 mmol) in tetrahydrofuran (30 mL) was stirred at reflux for 4 hours. The reaction was concentrated. To the residue was added triethyl phosphite (10 mL) and the mixture was stirred at reflux for 40 hours. The reaction was concentrated and purification by flash column chromatography gave 2-(4-methoxy-2-methylphenyl)-2H-indazole (1.5 g, 63%) as a white solid. 1H NMR (400 MHz, CDCl3, δ): 8.05 (s, 1H), 7.80 (d, J=8.8 Hz, 1H), 7.74 (d, J=8.8 Hz, 1H), 7.31-7.35 (m, 2H), 7.12-7.16 (m, 1H), 6.82-6.88 (m, 2H), 3.87 (s, 3H), 2.20 (s, 3H).

reactant | 4-methoxy-2-methylaniline | 10.0 mmol, 1.37 g | COC1=CC(=C(N)C=C1)C | C8H11NO
reactant | 2-nitrobenzaldehyde | 10.0 mmol, 1.51 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-(4-methoxy-2-methylphenyl)-2H-indazole | 1.5 g, 63% | COC1=CC(=C(C=C1)N1N=C2C=CC=CC2=C1)C | C15H14N2O
